US06380218B1
C-(4,5-Dichloro-thiophen-2-yl)-methylamine
To a stirred suspension of 2-(4,5-Dichloro-thiophen-2-ylmethyl)-isoindole-1,3-dione (0.770 grams, 2.47 mmole) in methanol (30 ml) and tetrahydrofuran (10 ml) at room temperature was added hydrazine hydrate (0.395 grams, 12.3 mmole) and stirred at room temperature over night. A precipitate formed, and the mixture was concentrated to about 15 ml and filtered. The filtrate was poured into 100 ml water and extracted with diethyl ether. The combined extracts were washed with water and brine, dried over MgSO4, filtered, and concentrated to an oil which was purified via flash chromatography on silica using 5% methanol/methylene chloride as eluent to give an oil (0.341 g). MW 182.08; MS (m/e) 183 (M++1).

reactant | 2-(4,5-Dichloro-thiophen-2-ylmethyl)-isoindole-1,3-dione | 2.47 mmole, 0.770 grams | ClC=1C=C(SC1Cl)CN1C(C2=CC=CC=C2C1=O)=O | C13H7Cl2NO2S
reactant | hydrazine hydrate | 12.3 mmole, 0.395 grams | O.NN
solvent | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | C-(4,5-Dichloro-thiophen-2-yl)-methylamine | 0.341 g | ClC=1C=C(SC1Cl)CN | C5H5Cl2NS
